US07166598B2
4N Hydrogen chloride in 1,4-dioxane solution (48 ml) was added dropwise to a solution of N-benzyl-N-benzyloxycarbonylmethyl-(2R)-2-(tert-butoxycarbonylamino)-3-(4-methoxyphenyl)propionamide (8.48 g) in dichloromethane (48 ml) under ice-bath cooling. After being stirred for 2 hours at the same temperature, the reaction mixture was concentrated under reduced pressure. The residue was added to aqueous sodium bicarbonate solution (50 ml) and dichloromethane (50 ml), and the organic layer was separated, washed with brine, dried over sodium sulfate, and evaporated under reduced pressure to give a powder of (3R)-1-benzyl-3-(4-methoxybenzyl)piperazine-2,5-dione (3.65 g).

reactant | Hydrogen chloride | 4N | Cl | ClH
reactant | N-benzyl-N-benzyloxycarbonylmethyl-(2R)-2-(tert-butoxycarbonylamino)-3-(4-methoxyphenyl)propionamide | 8.48 g | C(C1=CC=CC=C1)N(C([C@@H](CC1=CC=C(C=C1)OC)NC(=O)OC(C)(C)C)=O)CC(=O)OCC1=CC=CC=C1 | C31H36N2O6
reactant | 1,4-dioxane | 48 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 48 ml | ClCCl | CH2Cl2
product | (3R)-1-benzyl-3-(4-methoxybenzyl)piperazine-2,5-dione | 3.65 g | C(C1=CC=CC=C1)N1C([C@H](NC(C1)=O)CC1=CC=C(C=C1)OC)=O | C19H20N2O3
